US07629358B2
Preparation 35: 3-(2-[(2R)-2-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(tert-butyldimethylsilanyloxy)ethylamino]-2-methylpropyl}benzoic acid methyl ester
3-(2-amino-2-methylpropyl)benzoic acid methyl ester (Preparation 34) (1.36 g, 6.60 mmol), [2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]methanol (Preparation 23) (2.96 g, 6.60 mmol), sodium iodide (980 mg, 6.60 mmol) and diisopropylethylamine (3.44 ml, 19.7 mmol) in acetonitrile (10 ml) were heated to reflux for 48 hours under a nitrogen atmosphere. The solvent was then removed in vacuo and saturated aqueous sodium hydrogen carbonate solution (20 ml) added and the product extracted with ethyl acetate (3×30 ml). The combined organics were washed with brine (3×20 ml), dried (sodium sulfate) and the solvent removed in vacuo. The residue was purified by flash column chromatography on silica gel eluting with dichloromethane:methanol:ammonia (95:5:0.5 by volume) to furnish the title compound, the purified product was dissolved in diethylether and evaporated (×3) to yield a white foam (1.70 g).

reactant | 3-(2-amino-2-methylpropyl)benzoic acid methyl ester | 6.60 mmol, 1.36 g | COC(C1=CC(=CC=C1)CC(C)(C)N)=O | C12H17NO2
reactant | [2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]methanol | 6.60 mmol, 2.96 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CBr)O[Si](C)(C)C(C)(C)C)CO | C22H31BrO3Si
reactant | sodium iodide | 6.60 mmol, 980 mg | [I-].[Na+]
reactant | diisopropylethylamine | 19.7 mmol, 3.44 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(2-[(2R)-2-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(tert-butyldimethylsilanyloxy)ethylamino]-2-methylpropyl}benzoic acid methyl ester | COC(C1=CC(=CC=C1)CC(C)(C)NC[C@H](O[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)OCC1=CC=CC=C1)CO)=O | C34H47NO5Si
